US04925658
Preparation of 4-[3-(I-adamantyl)-4-tert.butyldimethylsilyloxybenzoylthio] benzoic acid.
The crude 3-(1-adamantyl)-4-tert.butyldimethylsilyloxybenzoic acid, prepared starting with 3.8 g (9.95 mmoles) of the corresponding acid, described in Example 3 of European Patent No. 0.232.199, is dissolved in 40 ml of dichloromethane. The solution is slowly added to a mixture of 1.54 g (9.95 mmoles) of 4-mercaptobenzoic acid and 15 ml of pyridine. The reaction mixture is stirred at ambient temperature for 12 hours, evaporated to dryness, taken up in water and acidified to pH 5 with IN HCl. The solid is filtered, washed with water, ground with 50 ml of ethyl ether and dried at 60° C. under a vacuum. 5 g (96% yield) of a white powder whose melting point is 232°-233° C. are recovered.

reactant | 3-(1-adamantyl)-4-tert.butyldimethylsilyloxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C(=C(C(=O)O)C=CC2C(C)(C)C)O[SiH](C)C | C23H34O3Si
reactant | 4-mercaptobenzoic acid | 9.95 mmoles, 1.54 g | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-[3-(I-adamantyl)-4-tert.butyldimethylsilyloxybenzoylthio] benzoic acid | 5 g, 96% yield | C12(CC3CC(CC(C1)C3)C2)C=2C(=C(C(=O)SC3=CC=C(C(=O)O)C=C3)C=CC2C(C)(C)C)O[SiH](C)C | C30H38O4SSi
